* This is an example of a sine stimulus from a first order delta sigma modulator.
.model comparator dac_bridge(out_low = -2.5 out_high = 2.5) 
*athresh_comparator [%vd threshold control] [over_threshold] comparator
asinestim [dac_out] [drv_out] comparator

* A tiny Verilog module handles the deltaSigma dac and test bench.
.model vlog_ds d_cosim simulation="ivlng" sim_args=["sine_stim_test"]
averilog null [ dac_out ] vlog_ds

* output rc filter
Rf drv_out filt_out 1k
cout filt_out 0 8n
.end

.control
tran 10n 2m uic
*fourier v(filt_out) 2k
plot dac_out-5 drv_out-10 filt_out
*linearize v(filt_out)
linearize v(drv_out)
set specwindow=blackman
*fft v(filt_out)
fft v(drv_out)
*plot db(mag(v(filt_out))) ylimit -100 20
plot db(mag(v(drv_out))) xlog xlimit 1000 1Meg ylimit -100 20
write output_data.raw
.endc
